US05262390
A mixture of 7.0 g (0.023 mole) of 1-[4-(4-fluorophenylmethoxy)-2-fluorophenyl]-1,4-dihydro-5H-tetrazol-5-one, 4.23 g (0.030 mole) of 1-bromo-3-fluoropropane, and 4.14 g (0.030 mole) of anhydrous potassium carbonate in 60 mL of N,N-dimethylformamide was heated at 70° C. for approximately seventeen hours. The mixture was allowed to cool to room temperature before being poured over ice. The solid that formed was removed by filtration and dried. This solid was then placed on a silica gel column and eluted with with methylene chloride. The product-containing fractions were combined and the solvents evaporated under reduced pressure, leaving 6.35 g of 1-[4-(4-fluorophenylmethoxy)-2-fluorophenyl]-1,4-dihydro-4-(3-fluoropropyl)-5H-tetrazol-5-one, m.p. 86°-88° C.

reactant | 1-[4-(4-fluorophenylmethoxy)-2-fluorophenyl]-1,4-dihydro-5H-tetrazol-5-one | 0.023 mole, 7.0 g | FC1=CC=C(C=C1)COC1=CC(=C(C=C1)N1N=NNC1=O)F | C14H10F2N4O2
reactant | 1-bromo-3-fluoropropane | 0.030 mole, 4.23 g | BrCCCF | C3H6BrF
reactant | potassium carbonate | 0.030 mole, 4.14 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 1-[4-(4-fluorophenylmethoxy)-2-fluorophenyl]-1,4-dihydro-4-(3-fluoropropyl)-5H-tetrazol-5-one | 6.35 g | FC1=CC=C(C=C1)COC1=CC(=C(C=C1)N1N=NN(C1=O)CCCF)F | C17H15F3N4O2
